* Subcircuit 6bit_DAC
.subckt 6bit_DAC /vrefh /vrefl /d0 /d1 /d2 /d3 /d4 /d5 /vdd /vout 
* c:\fossee\esim\library\subcircuitlibrary\6bit_dac\6bit_dac.cir

.options wnflag=1

.include switch.sub
.include 5bit_DAC.sub
x1 /vrefh net-_x1-pad2_ /d0 /d1 /d2 /d3 /d4 /vdd net-_x1-pad9_ 5bit_DAC
x2 net-_x1-pad2_ /vrefl /d0 /d1 /d2 /d3 /d4 /vdd net-_x2-pad9_ 5bit_DAC
x3 /d5 /vdd net-_x1-pad9_ net-_x2-pad9_ /vout switch
* Control Statements

.ends 6bit_DAC
